US04772601
5-Oxo-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidine carboxamide
An ice water chilled solution of 5-methoxycarbonyl-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone (5.52 g) in sieve dried methanol (175 ml) was treated with anhydrous ammonia for fifteen minutes and was allowed to stand at ambient temperature overnight. The solution was concentrated to a brown solid (3.33 g). The solid was recrystallized from toluene (100 ml) to give 2.03 g of slightly brown crystals, mp 146°-147.5° C.

reactant | 5-methoxycarbonyl-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidinone | 5.52 g | COC(=O)C1CCC(N1CC#CCN1CCCC1)=O | C14H20N2O3
reactant | ammonia | N | H3N
solvent | methanol | 175 ml | CO | CH4O
product | 5-Oxo-1-[4-(1-pyrrolidinyl)-2-butynyl]-2-pyrrolidine carboxamide | O=C1CCC(N1CC#CCN1CCCC1)C(=O)N | C13H19N3O2
